Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Perihepatic/pelvic fluid collections
 
Major Surgical or Invasive Procedure:
___ - CT-guided perihepatic and pelvic fluid collection 
drainage
___ - ERCP

 
History of Present Illness:
___ y/o F with hx of prothrombin gene mutation, recurrent PE/DVT, 
thrombocytopenia, s/p laparoscopic CCY at ___ on ___ 
for porcelain GB with complicated post op course including 
medflight to ___, intubation, and multiple organ failure who 
presents today as transfer from ___ with 
complaints of suprapubic pain, elevated temp to 100.6, and CT 
findings of fluid collection in the pouch ___ as well as
in the perihepatic region.

Of note on last hospitalization was noted to become hypotensive 
post lap CCY, required pressors and ICU stay. During that time 
she was also found to have PNA, ___, and transient respiratory 
failure. She had a prolonged ICU stay and was found to have 
large fluid collection perihepatic and pelvic during that
hospitalization that was thought to be hemorrhagic. She was sent 
to rehab restarted on her coumadin with known fluid in her 
abdomen. GI was consulted before discharge for persistently 
elevated LFTS and there was concern for hepatic 
necrosis/ischemia and that her LFTs would be trended.  

Currently complains of suprapubic discomfort with urination and 
defecation.  Was constipated in rehab, given laxative and has 
had large amounts of loose stools that are dark in color, 
although patient notes that she is taking iron supplements.
 
Past Medical History:
- Rectal bleeding: ___ tx'd DDAVP
- Thrombocytopenia:  ___ BM biopsy with erythroid 
hyperplasia and granulocytic hypoplasia
- History of DVT/PE on coumadin
- Hypothryoidism
- Fe deficiency Anemia 
- Porcelain gallbladder now s/p cholecystectomy ___
- Hyperlipidemia
- HTN
- s/p exploratory laparoscopy ___
- s/p tubal ligation ___
- osteoarthritis
 
Social History:
___
Family History:
Father (deceased) colon ca, Mother (deceased) liver ca, one 
brother treated for colon ca. 
 
Physical Exam:
Physical Exam upon presentation:
VS - 97.8 80 122/50 96%RA
___ - elderly woman, tired, NAD
CARDIAC - RRR, no m/r/g
CHEST - CTAB
ABDOMEN - surgical incision sites clean with steri strips
present, soft, non-distended, tenderness to deep palpation in
suprapubic region > LUQ and RUQ
NEURO - alert, oriented

Physical Exam upon discharge:
VS: 97.8, 129/76, 73, 18, 97/RA
GEN: Resting comfortably in bed, NAD.
HEENT: Mucus membranes moist, EOMI
CARDIAC: Normal S1, S2. RRR No MRG
PULM: Lungs diminished at bases. No W/R/R 
ABDOMEN: Soft/nontender/mildly distended.
EXT: + pedal pulses. No CCE
NEURO: AAOx4, normal mentation. 
 
Pertinent Results:
___ 03:55AM   ___ PTT-25.5 ___
___ 03:55AM   PLT SMR-VERY LOW PLT COUNT-27*
___ 03:55AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 03:55AM   NEUTS-64 BANDS-0 LYMPHS-16* MONOS-13* EOS-5* 
BASOS-0 ATYPS-2* ___ MYELOS-0
___ 03:55AM   WBC-9.4 RBC-3.89* HGB-11.5* HCT-35.3* MCV-91 
MCH-29.6 MCHC-32.5 RDW-14.7
___ 03:55AM   ALBUMIN-3.1*
___ 03:55AM   LIPASE-33
___ 03:55AM   ALT(SGPT)-15 AST(SGOT)-28 ALK PHOS-101 TOT 
BILI-1.3
___ 03:55AM   estGFR-Using this
___ 03:55AM   GLUCOSE-131* UREA N-13 CREAT-0.6 SODIUM-133 
POTASSIUM-4.6 CHLORIDE-98 TOTAL CO2-24 ANION GAP-16
___ 03:59AM   LACTATE-1.3
___ 03:59AM   ___ COMMENTS-GREEN TOP
___ 05:34AM BLOOD WBC-7.0 RBC-3.43* Hgb-10.0* Hct-31.3* 
MCV-91 MCH-29.0 MCHC-31.8 RDW-15.1 Plt Ct-25*
___ 12:16AM BLOOD WBC-8.8 RBC-3.51* Hgb-10.1* Hct-32.0* 
MCV-91 MCH-28.8 MCHC-31.6 RDW-14.9 Plt Ct-34*
___ 02:50AM BLOOD WBC-8.3 RBC-3.61* Hgb-10.5* Hct-32.8* 
MCV-91 MCH-29.1 MCHC-32.0 RDW-14.7 Plt Ct-23*
___ 03:55AM BLOOD Neuts-64 Bands-0 Lymphs-16* Monos-13* 
Eos-5* Baso-0 Atyps-2* ___ Myelos-0
___ 05:34AM BLOOD Glucose-119* UreaN-6 Creat-0.5 Na-135 
K-3.6 Cl-104 HCO3-22 AnGap-13
___ 12:16AM BLOOD Glucose-119* UreaN-7 Creat-0.6 Na-137 
K-3.9 Cl-105 HCO3-22 AnGap-14
___ 02:50AM BLOOD Glucose-119* UreaN-9 Creat-0.6 Na-136 
K-3.7 Cl-105 HCO3-24 AnGap-11
___ 05:34AM BLOOD Calcium-7.5* Phos-2.2* Mg-1.5*
___ 12:16AM BLOOD Calcium-7.6* Phos-2.6* Mg-1.7
___ 02:50AM BLOOD Calcium-7.9* Phos-2.7 Mg-1.8
___ 03:55AM BLOOD Albumin-3.1*
___ 03:59AM BLOOD Lactate-1.3

___ GALLBLADDER SCAN 
IMPRESSION: No evidence of bile leak or biliary obstruction.  
Surgically absent gallbladder. 

___   DRAINAGE HEMATOMA/FLUID 
IMPRESSION: 
  
1.  Satisfactory placement of pigtail catheter within the pelvic 
hematoma.  If the catheter does not continue to drain, it should 
be removed. Sample sent for culture. 
2.  Aspiration of thick clotted blood from perihepatic 
collection.  This is felt to represent a clotted hematoma and, 
therefore, a catheter was not left in situ. 

 
Brief Hospital Course:
___ admitted for abdominal pain secondary to perihepatic/pelvic 
fluid collections after undergoing elective laparoscopic 
cholecystectomy at OSH on ___.  Upon admission her INR was 
2.4, and her platelets 27, so on ___ she was unable to undergo 
drainage as her anticoagulated state needed to be reversed and 
her platelets restored.  To this end, she was given vitamin K, a 
heparin drip started at 600 units/hr for a PTT goal of 50-70, 
and she was scheduled to undergo drainage on ___, which she 
did.  She tolerated the procedure well, and her regular diet was 
resumed.  On ___, she was evaluated by a nutritionist after 
she stated that she had not been eating well; they recommended 
Ensure daily with meals. Her albumin came back as 3.1. On 
___, she had a HIDA scan that showed "no evidence of bile 
leak or biliary obstruction. Surgically absent gallbladder". 

On ___, the patient's pelvic drain was removed due to 
minimal drainage, and the culture and gram stain of the fluid 
was negative for bacterial growth. Blood cultures were also 
negative. Antibiotics were discontinued at this time.   

On ___, the patient was transfused with one unit of 
platelets in order to undergo a previously scheduled ERCP for 
stent removal. She tolerated the procedure without any 
complications: "The prior placed plastic stent was removed using 
a snare. Cannulation of the biliary duct was successful and deep 
with a balloon catheter using a free-hand technique.  The 
intrahepatics were normal. The common bile duct was normal in 
size. Small filling defects seen in the common bile duct. The 
cystic duct stump was visualized along with RUQ surgical clips 
from the prior cholecystectomy. Sludge was extracted 
successfully using a extraction balloon. An occlusion 
cholangiogram showed no further filling defects. There was 
excellent flow of bile and contrast."   

After her procedure, her heparin gtt was held for 6 hours and 
she was discharged back to ___ with plan to restart 
her heparin gtt at 1700 pm (___). She was started back on 
her coumadin as well in order to obtain a therapeutic INR level. 
She was discharged on ___ with scheduled followup in the 
___.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Warfarin ___ mg PO DAILY16 
3. Ferrous Sulfate 65 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Tucks Hemorrhoidal Oint 1% 1 Appl PR TID PRN hemorrhoids 
7. Omeprazole 20 mg PO DAILY 
8. Pravastatin 20 mg PO HS 
9. Vitamin D 400 UNIT PO DAILY 
10. Acetaminophen 650 mg PO Q8H pain 
11. Captopril 12.5 mg PO TID 
12. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB/WHEEZE 
13. OxycoDONE (Immediate Release)  2.5 - 5 mg PO Q4H:PRN pain 
14. Senna 1 TAB PO HS Constipation 
15. Docusate Sodium 100 mg PO BID 
16. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 

 
Discharge Medications:
1. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
2. Captopril 12.5 mg PO TID 
3. Docusate Sodium 100 mg PO BID 
4. Ferrous Sulfate 65 mg PO DAILY 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Pravastatin 20 mg PO HS 
7. Tucks Hemorrhoidal Oint 1% 1 Appl PR TID PRN hemorrhoids 
8. Vitamin D 400 UNIT PO DAILY 
9. Senna 1 TAB PO HS Constipation 
10. Omeprazole 20 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB/WHEEZE 
13. Heparin IV 
No Initial Bolus
Initial Infusion Rate: 600 units/hr
14. Warfarin ___ mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Perihepatic and pelvic fluid collections
Stent removal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the acute care surgery service for 
perihepatic/pelvic fluid collections.
 
Please call your doctor or go to the emergency department if:
*You experience new chest pain, pressure, squeezing or 
tightness.
*You develop new or worsening cough, shortness of breath, or 
wheeze.
*You are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
*Your pain is not improving within 12 hours or is not under 
control within 24 hours.
*Your pain worsens or changes location.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*You develop any concerning symptoms.
 
___ Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 20 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.
 
Followup Instructions:
___